US06200999B1
Ethyl 3-Ethoxy-4-phthalimidomethylisoxazole-5-carboxylate
A solusion of ethyl 4-bromomethyl-3-ethoxyisoxazole-5-carboxylate (5 g, 17.9 mmol) in DMF (85 mL) was added to a suspension of potassium phthalimid (3.6 g, 19,7 mmol) in DMF (125 mL) at 90° C. The resulting mixture was stirred at 90° C. for 40 min, then cooled and concentrated in vacuo. Water (250 mL) was added and the aqueous phase was extracted with diethylether (2×200 mL). The organic extracts were dried (MgSO4) and concentrated in vacuo to give a crude product which was recrystallized (EtOH) to yield the title compound (3.70 g, 60%): mp 93-94° C.

reactant | ethyl 4-bromomethyl-3-ethoxyisoxazole-5-carboxylate | 17.9 mmol, 5 g | BrCC=1C(=NOC1C(=O)OCC)OCC | C9H12BrNO4
reactant | potassium phthalimid | 19,7 mmol, 3.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 85 mL | CN(C)C=O | C3H7NO
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-Ethoxy-4-phthalimidomethylisoxazole-5-carboxylate | 3.70 g, 60% | C(C)OC1=NOC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C17H16N2O6
